US09145415B2
To a suspension of 2,2,3-trifluoro-3-(3-nitrophenyl)propan-1-ol (C31, 500 mg), anhydrous sodium sulfate (500 mg) and pyridine (256 μL) in methylene chloride (20 mL), trifluoromethanesulfonic anhydride (521 μL) was added under ice cooling, and the mixture was stirred at the same temperature for 1 hour. To the reaction mixture, 10% aqueous citric acid and methylene chloride were added. The organic layer was separated, washed successively with saturated aqueous sodium hydrogencarbonate and saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to obtain 2,2,3-trifluoro-3-(3-nitrophenyl)propyl trifluoromethanesulfonate (C32, 709 mg).

reactant | 2,2,3-trifluoro-3-(3-nitrophenyl)propan-1-ol | 500 mg | FC(CO)(C(C1=CC(=CC=C1)[N+](=O)[O-])F)F | C9H8F3NO3
reactant | sodium sulfate | 500 mg | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | pyridine | 256 μL | N1=CC=CC=C1 | C5H5N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | trifluoromethanesulfonic anhydride | 521 μL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 2,2,3-trifluoro-3-(3-nitrophenyl)propyl trifluoromethanesulfonate | 709 mg | FC(S(=O)(=O)OCC(C(C1=CC(=CC=C1)[N+](=O)[O-])F)(F)F)(F)F | C10H7F6NO5S
